US05998436
Synthesis of 2,3,5-trifluoro-6-isopropylaminopyridine
To 20 ml of acetonitrile were added 6.0 g of 2,3,5,6-tetrafluoropyridine and 6.0 g of isopropylamine, and the mixture was stirred at room temperature for 2 hours and concentrated under reduced pressure. After adding 40 ml of chloroform, the solution was washed with 50 ml of 3% aqueous solution of potassium carbonate. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 1.9 g of the title compound as a colorless oil.

reactant | 2,3,5,6-tetrafluoropyridine | 6.0 g | FC1=NC(=C(C=C1F)F)F | C5HF4N
reactant | isopropylamine | 6.0 g | C(C)(C)N | C3H9N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,3,5-trifluoro-6-isopropylaminopyridine | 1.9 g | FC1=NC(=C(C=C1F)F)NC(C)C | C8H9F3N2
